US06570020B2
4b(S)-Benzyl-7-ethoxy-4b,5,6,10-tetrahydro-phenanthrene-2-carbonitrile
Zinc cyanide (13.4 g, 114 mmol) was added to a solution of 4a(S)-Benzyl-7-bromo-2-ethoxy-3,4,4a,9-tetrahydro-phenanthrene (30 grams, 75.9 mmol) in DMF (200 mL) followed by tetrakis(triphenylphosphine)palladium(0), (10.5 g, 9.11 mmol) in a flask outfitted with a bleach scrubbing system. Additional dimethyl formamide (400 mL) was used to wash the sides of the flask and funnel. The suspension was heated to 80° C. After 7 hours HPLC showed no starting material and the reaction was cooled to room temperature. The suspension was diluted with EtOAc (300 mL) and filtered through a pad of Celite. The filtrate was washed with 2N NH4OH (2 times 500 mL), brine (500 mL) and water (500 mL). Upon addition of water solids began to precipitate out so additional EtOAc (200 mL) was added. The organic layer was concentrated to ½ volume and diluted with ethanol (250 mL) and water (250 mL). The resulting solids were allowed to granulate for 1 hour and then filtered. The mother liquor was concentrated slightly and a second crop was collected. After the combined crops air dried overnight a white solid was collected: 24.9 grams (72.9 mmol), 96% yield; mp 164-165° C., IR (film) ν 2227, 1657, 1631 cm−1; [α]25D+160.06; 1H NMR (acetone-d6) δ 7.62-7.56 (m, 2H), 7.29 (s, 1H), 7.09-7.06 (m, 1H), 7.01-6.95 (m, 2H), 6.51 (d, 2H, J=7.1 Hz), 5.54 (dd, 1H, J=5.4, 2.0 Hz), 5.49 (d, 1, J=1.6 Hz), 3.91 (q, 2, J=7.1 Hz), 3.07 (d, 1, J=12.5 Hz), 2.99 (dd, 1, J=21.6, 5.8 Hz), 2.81-2.72 (m, 1H), 2.73 (d, 1H, J=12.5 Hz), 2.65 (dd, 1H, J=13.7, 6.6 Hz), 2.29 (dd, 1H, J=17.8, 5.4 Hz), 2.15 (d, 1H, J=21.6 Hz), 1.83 (ddd, 1H, J=12.8, 12.8, 6.2 Hz), 1.33 (t, 3H, J=7.1 Hz); 13C NMR (acetone-d6) δ 155.3, 147.4, 138.9, 137.4, 136.0, 131.0, 130.7, 129.5, 127.2, 127.0, 126.2, 119.0, 118.4, 109.5, 98.8, 62.5, 44.2, 42.5, 32.1, 29.9, 25.5, 14.3. Anal. Calcd for C24H23NO: C, 84.42; H, 6.79; N, 4.10. Found: C, 83.82; H, 6.87; N, 4.04. The structure and absolute configuration were confirmed by single crystal X-ray analysis.

reactant | 4a(S)-Benzyl-7-bromo-2-ethoxy-3,4,4a,9-tetrahydro-phenanthrene | 75.9 mmol, 30 grams | C(C1=CC=CC=C1)[C@]12CCC(=CC2=CCC2=CC(=CC=C12)Br)OCC | C23H23BrO
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
reactant | dimethyl formamide | 400 mL | CN(C=O)C | C3H7NO
catalyst | Zinc cyanide | 114 mmol, 13.4 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 9.11 mmol, 10.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4b(S)-Benzyl-7-ethoxy-4b,5,6,10-tetrahydro-phenanthrene-2-carbonitrile | 96% yield | C(C1=CC=CC=C1)[C@@]12C=3C=CC(=CC3CC=C2C=C(CC1)OCC)C#N | C24H23NO
